US06008230
Thionyl chloride (52.8 mg) was dropwise added to dimethylformamide at ambient temperature, and the mixture was stirred for 10 minutes at the same temperature. To the mixture was added 8-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-4-(imidazol-1-yl)quinoline (141 mg), and the mixture was stirred for 20 minutes at ambient temperature. The mixture was partitioned between saturated sodium bicarbonate solution and ethyl acetate, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The obtained residue was dissolved in dichloromethane-methanol, and the solution was added to a solution of sodium methoxide, which was prepared by adding sodium (17.3 mg) to dry methanol (1.5 ml) and then stirring for 15 minutes at ambient temperature. The mixture was stirred for 3 hours at 40° C. The mixture was partitioned between saturated ammonium chloride solution and ethyl acetate, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography to give 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(methoxymethyl)quinoline (55 mg).

reactant | Thionyl chloride | 52.8 mg | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 8-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-4-(imidazol-1-yl)quinoline | 141 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CO)N2C=NC=C2)C(=CC=C1)Cl | C20H14Cl2N4O2
reactant | sodium | 17.3 mg | [Na] | Na
solvent | methanol | 1.5 ml | CO | CH4O
product | 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(methoxymethyl)quinoline | 55 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)COC)N2C=NC=C2)C(=CC=C1)Cl | C21H16Cl2N4O2
